US05189054
Step b: 3-Amino-2-carbethoxy-4,6-dichloroindole
Dissolve 3-nitro-2-carbethoxy-4,6-dichloroindole (38.1 g) in ethanol (1 L) and add tin (II) chloride dehydrate (163 g). Warm to between 65° and 65° C. for 4 to 5 hours. Cool to room temperature and pour into a mixture of ethyl acetate (3 L) and water (2 L). Add solid potassium carbonate and stir occasionally until the carbon dioxide evolution ceases. Filter throught Celite and separate the organic phase of the filtrate. Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as an off-yellow solid (33.5 g, 97.6%).

reactant | 3-nitro-2-carbethoxy-4,6-dichloroindole | 38.1 g | [N+](=O)([O-])C1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H8Cl2N2O4
reactant | tin (II) chloride | 163 g | [Sn](Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | water | 2 L | O | H2O
solvent | ethyl acetate | 3 L | C(C)(=O)OCC | C4H8O2
product | 3-Amino-2-carbethoxy-4,6-dichloroindole | 33.5 g, 97.6% | NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
